US04355037
3-(1-Allyl-4-piperidyl)-1,2-benzisoxazole hydrochloride
A suspension of 4.0 g of 3-(4-piperidyl)-1,2-benzisoxazole, 2.6 g of allyl bromide, 5.0 g of sodium bicarbonate, and 3.0 g of potassium iodide in 90 ml of dimethylformamide was stirred at 80° for 20 hrs. The reaction was cooled, filtered and poured into 1 l of water. The mixture was extracted with ether (three times) and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give an oil. The oil was dissolved in a small amount of ether into which hydrochloric acid was bubbled. The precipitate was recrystallized from ethanol-ether (three times) to give 2.4 g of product, mp, 174°-176°.

reactant | 3-(4-piperidyl)-1,2-benzisoxazole | 4.0 g | N1CCC(CC1)C1=NOC2=C1C=CC=C2 | C12H14N2O
reactant | allyl bromide | 2.6 g | C(C=C)Br | C3H5Br
reactant | sodium bicarbonate | 5.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 3.0 g | [I-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-(1-Allyl-4-piperidyl)-1,2-benzisoxazole hydrochloride | 2.4 g | Cl.C(C=C)N1CCC(CC1)C1=NOC2=C1C=CC=C2 | InChI=1S/C15H18N2O.ClH/c1-2-9-17-10-7-12(8-11-17)15-13-5-3-4-6-14(13)18-16-15;/h2-6,12H,1,7-11H2;1H
